US08030302B2
Ethyl 2-(4-fluorophenylcarbamoyl)-3-methylbut-2-enoate
To a solution of 4-fluoroaniline (2 g, 18 mmol) in diethyl isopropylidenemalonate (10 g, 50 mmol) is added 1H-imidazole (0.25 g, 3.67 mmol). The reaction mixture is stirred at 200° C. under N2 for 3 hours. After the reaction is cooled, silica gel is added. The mixture is loaded onto a silica gel column, and eluted first with PE and then PE:EtOAc (3:1) to give the product (1.85 g, 39% yield). MS (m/z): 266.1 (M+H).

reactant | 4-fluoroaniline | 18 mmol, 2 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | diethyl isopropylidenemalonate | 50 mmol, 10 g | C(C)(C)=C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | 1H-imidazole | 3.67 mmol, 0.25 g | N1C=NC=C1 | C3H4N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 2-(4-fluorophenylcarbamoyl)-3-methylbut-2-enoate | 1.85 g, 39% yield | FC1=CC=C(C=C1)NC(=O)C(C(=O)OCC)=C(C)C | C14H16FNO3
